US07476741B2
2-Hydroxy-7-methyl-4-(3,4,5-trimethoxyphenyl)-pyrrolo[2,3-h]chroman
The title compound was prepared following the procedure described in Example 18 using 4-hydroxy-N-methyl indole (15 mg; 0.1 mmol) and 3-(3,4,5-trimethoxy-phenyl)-propenal (25 mg; 0.11 mmol) with morpholine (10 μl; 0.11 mmol) as a base (yield: 48%). 1H NMR (acetone-d6) 6.96 (d, J=2.7 Hz) and 6.94 (d, J=3.1 Hz) (1H), 6.70 (d, J=8.2 Hz) and 6.68 (d, J=7.2 Hz) (1H), 6.45 (d, J=8.6 Hz), 6.43 (s) and 6.40 (d, J=9.0 Hz) (3H), 6.29 and 6.28 (d each, J=3.3 Hz, 1H), 6.01 (d, J=6.8 Hz) and 5.91 (d, J=4.3 Hz) (1H), 5.57-5.60 (m) and 5.42-5.44 (m) (1H), 4.19 (dd, J=6.2, 10.0 Hz; 1H), 3.63, 3.62 and 3.59 (s each, 12 H), 2.23-2.28 (m) and 2.00-2.11 (m) (2H).

reactant | 4-hydroxy-N-methyl indole | 0.1 mmol, 15 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | 3-(3,4,5-trimethoxy-phenyl)-propenal | 0.11 mmol, 25 mg | COC=1C=C(C=C(C1OC)OC)C=CC=O | C12H14O4
reactant | morpholine | 0.11 mmol, 10 μl | N1CCOCC1 | C4H9NO
product | 2-Hydroxy-7-methyl-4-(3,4,5-trimethoxyphenyl)-pyrrolo[2,3-h]chroman | yield: 48% | OC1OC2=C3C(=CC=C2C(C1)C1=CC(=C(C(=C1)OC)OC)OC)N(C=C3)C | C21H23NO5
